US07037916B2
nButyllithium (1.5 M in hexanes/1.53 mL, 2.3 mmol) was added dropwise to a solution of 4-bromopyridine (200 μL, 2.08 mmol) and in diethyl ether (20 mL)−78° C. After 30 minutes, the reaction mixture was warmed to −30° C. and 4,6-dichloropyrimidine (283 mg, 1.9 mmol) was added. The reaction mixture was allowed to warm to 0° C. over 60 min after which water (2 mmol) and acetic acid (4 mmol) were added followed by DDQ (431 mg, 1.9 mmol). After 30 minutes, the reaction mixture was diluted with diethyl ether (30 mL) and washed three times with aqueous 3M NaOH. the organic layer was dried over MgSO4. Filtration and removal of volatiles under reduced pressure yielded a brown gummy solid which was purified by flash chromatography to afford 2-pyridyl-4,6-dichloropyrimidine as a white solid (0.261 mg, 61%). 1H NMR: (CDCl3) δ 7.40, 1H, s; 8.23, 2H, d; 8.80, 2H, d.

reactant | 4-bromopyridine | 2.08 mmol, 200 μL | BrC1=CC=NC=C1 | C5H4BrN
reactant | 4,6-dichloropyrimidine | 1.9 mmol, 283 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | water | 2 mmol | O | H2O
reactant | acetic acid | 4 mmol | C(C)(=O)O | C2H4O2
reactant | DDQ | 1.9 mmol, 431 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | 2-pyridyl-4,6-dichloropyrimidine | 0.261 mg, 61% | N1=C(C=CC=C1)C1=NC(=CC(=N1)Cl)Cl | C9H5Cl2N3
